Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Bowel perforation
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
___ is an ___ female with a history of dementia, arthritis 
and recent hospitalizations for falls, c. diff colitis and 
pneumonia. She had been living at home with her daughter until a 
fall in ___. Since that time she has been between rehab and 
the hospital for c. diff colitis and recurrent pneumonia.  She 
was hospitalized last week at an OSH with c. diff and was 
discharged to ___ 3 days previously. At that time she 
was feeling well and was interactive with family. She fell today 
at rehab and was found to have BRBPR.  She was brought to an OSH 
and found to have free air under her diaphragm on a plain film. 
She was transferred to ___ for further management of a 
presumed perforated bowel.  Upon arrival to the ED she initially 
hypotensive. She underwent right IJ central line placement for 
initiation of pressors, fluids and antibiotics.  She underwent a 
CT abdomen and pelvis which confirmed the finding of a bowel 
perforation with peritonitis.  She was evaluated by surgery who 
discussed with her family what a poor surgical candidate she 
was. After reviewing the options available, the family opted to 
make the patient CMO. She was initially given morphine which was 
inadequate for pain control and she was given several doses of 
hydromorphone with adequate result and was transferred to the 
medical floor for continued comfort care. 

In the ED, initial VS:  98.4 90 86/52 22 92% 4L NC

Currently, the patient is resting comfortably, surrounded by 
numerous family members. She is away, somewhat dysarthric with 
labored breathing. She response to voice and tells me she is 
"not bad", denies neck pain or abdominal pain. The family is 
asking for a pastoral visit. 

 
Past Medical History:
Dementia
arthritis
history of pneumonia
cellulitis
 
Social History:
___
Family History:
NC
 
Physical Exam:
VS - not taken, CMO
GENERAL - Elderly, chronically ill appearing, pale female, 
tachypneic
HEENT - MM dry
NECK - R IJ CVL in place, c/d/i, no swelling or tenderness.
LUNGS - Kussmaul breathing, lungs clear. Cachectic
HEART - difficult to ascultate over breath sounds. 
ABDOMEN - No bowel sounds. Non-tender to light palpation. 
EXTREMITIES - bilateral mild pitting edema. 
SKIN - scattered diffuse ecchymoses, pale. 
NEURO - awake, responds to voice, mildly dysarthric voice
 
Pertinent Results:
CT ABD/PELVIS ___:

1. Pneumoperitoneum. Given the distribution favoring the upper 
abdomen and 
slightly more prominent focus of air around the duodenal bulb, 
findings may represent a perforated duodenal ulcer. Clinical 
correlation is recommended. Evaluation is limited due to lack of 
oral and IV contrast. 
  
2. Colonic diverticulosis with no definite diverticulitis. 
  
3. Multilevel compression fractures of the thoracolumbar spine 
are 
age-indeterminate. 
  
4. Bilateral simple pleural effusions with adjacent associated 
atelectasis, 
are small. 

 
Brief Hospital Course:
Ms. ___ was a ___ year-old lady with history of dementia, 
recent recurrent pneumonias and C. diff infection who presented 
after a mechanical fall, complaining of ___ abdominal pain, 
found to have free air in abdomen. Her CT imaging in the ED was 
consistent with bowel perforation so general surgery was 
emergently consulted. The surgical team discussed with her 
family that the patient was a poor surgical candidate given age, 
multiple comorbidities and risks of this type of emergent 
procedure. After reviewing the options available, the family 
opted to make the patient CMO. She was initially given morphine 
which was inadequate for pain control and she was given several 
doses of hydromorphone with adequate result and was transferred 
to the medical floor for continued comfort care. On the medical 
floor, a meeting was held at the bedside with medical team and 
numerous family members including HCP ___.  The family 
expressed wishes to make the patient comfortable and requested 
pastoral care. Catholic priest and family's vicar came to speak 
w/ family and pt was placed on dilaudid drip as morphine did not 
adequately control her pain. Patient had kussmaul respiration 
but stated she was comfortable and pain was adequately 
controlled. Pt arrived to the medical floor from ED around 7:30 
___ and time of death was 9:51 ___.  

 
Medications on Admission:
Flagyl 500 mg PO TID
Flovastor 500 mg PO BID
Multivitamin
Heparin 5000 units SC q daily, Nystatin Swish and Swallow
 
Discharge Medications:
none; pt expired 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
perforated bowel, non surgical candidate
 
Discharge Condition:
expired
 
Discharge Instructions:
expired
 
Followup Instructions:
___